data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_599608_2,[C:1]([C:3]([H:15])([H:16])[H:17])([N:4]([C:2]([H:12])([H:13])[H:14])[O:6][H:8])([N:5]([H:10])[H:11])[O:7][H:9]>>[C:1]([N:4]([C:2]([H:12])([H:13])[H:14])[C:3]([H:15])([H:16])[H:17])([N:5]([H:10])[H:11])([O:6][H:8])[O:7][H:9],72.25411499998842
MR_128952_1,[C:1]([C:2]([C:4]([H:19])([H:20])[H:21])([C:5]([H:22])([H:23])[H:24])[H:11])(/[C:6]([N:8]([H:14])[H:15])=[N:9]/[C:3]([H:16])([H:17])[H:18])([N:7]([H:12])[H:13])[H:10]>>[C:1](\[C:6]([C:2]([C:4]([H:19])([H:20])[H:21])([C:5]([H:22])([H:23])[H:24])[H:11])([N:8]([H:14])[H:15])[N:9]([C:3]([H:16])([H:17])[H:18])[H:12])(=[N:7]/[H:13])[H:10],66.84004500003198
MR_153864_1,[C:1]([C:2]([C:6]([C:7]([C:3]([H:13])([H:14])[H:15])([O:9][H:17])[H:10])=[O:8])([H:11])[H:12])(=[C:4]([H:18])[H:19])[C:5]([H:16])([H:20])[H:21]>>[C:1]([C:2]([C:6]([C:7]([C:3]([H:13])([H:14])[H:15])=[O:9])=[O:8])([H:11])[H:12])([C:4]([H:17])([H:18])[H:19])([C:5]([H:16])([H:20])[H:21])[H:10],49.86428749998154
MR_333447_1,[C:1](/[N:8]=[C:5]([C:3](=[C:2](\[N:4]([H:11])[H:12])[O:6][H:9])\[O:7][H:10])/[H:13])([H:14])([H:15])[H:16]>>[C:1]([N:8]1[C:2]([N:4]([H:11])[H:12])([O:6][H:9])[C:3]([O:7][H:10])=[C:5]1[H:13])([H:14])([H:15])[H:16],45.06265749994128
MR_455847_1,[N:1]1([H:9])[C:2]2([N:8]=[C:6]([H:13])[H:14])[C:5]1([H:12])[C:3]([N:4]([H:10])[H:11])=[N:7]2>>[n:1]1([H:9])[c:2]([N:8]=[C:6]([H:13])[H:14])[n:7][c:3]([N:4]([H:10])[H:11])[c:5]1[H:12],18.68255749998582
MR_168669_1,[C:1]([N:3]([C:4]([O:7][H:10])=[O:9])/[C:5]([C:2]([H:16])([H:17])[H:18])=[N:8]/[N:6]([H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1](/[N:3]=[C:5](/[C:2]([H:16])([H:17])[H:18])[N:8]([C:4]([O:7][H:10])=[O:9])[N:6]([H:11])[H:12])([H:13])([H:14])[H:15],38.9200599999694
MR_213025_0,[C:1](\[N:3]([H:9])[H:10])([C:4](=[C:5]([H:12])[H:13])[H:11])=[N:6]/[N:2]([H:7])[H:8]>>[C:1]1([N:3]([H:9])[H:10])=[C:4]([H:11])[C:5]([H:12])([H:13])[N:6]1[N:2]([H:7])[H:8],48.23717999995196
MR_123345_1,[C:1]([C:4]([N:3]([C:5]([C:2]([H:12])([H:15])[H:16])=[O:8])[N:6]([H:9])[H:10])=[O:7])([H:11])([H:13])[H:14]>>[C:1](/[C:4](=[N:3]\[N:6]([H:9])[H:10])[O:7][C:5]([C:2]([H:12])([H:15])[H:16])=[O:8])([H:11])([H:13])[H:14],36.5801124999561
MR_590861_2,[C:1](=[C:5](/[C:3]([H:17])([H:18])[H:19])[C:4]([C:2]([H:14])([H:15])[H:16])([C:6](=[C:7]([H:20])[H:21])[H:13])[O:9][H:11])(\[O:8][H:10])[H:12]>>[C:1](/[C:5]([C:3]([H:17])([H:18])[H:19])=[C:4](/[C:2]([H:14])([H:15])[H:16])[O:9][H:11])([C:6](=[C:7]([H:20])[H:21])[H:13])([O:8][H:10])[H:12],72.74042750000902
MR_471410_0,[C:1]1([O:7][H:11])([H:12])[C:2]([H:16])([H:17])[C:3]1([O:6][H:10])[N:8]=[C:4]([N:5]([H:13])[H:14])[N:9]([H:15])[H:18]>>[C:1]([C:2]([H:16])([H:17])[H:18])(/[C:3]([O:6][H:10])=[N:8]/[C:4]([N:5]([H:13])[H:14])=[N:9]/[H:15])([O:7][H:11])[H:12],22.835352499987778
MR_620724_0,[C:1](/[C:3](=[C:5](\[N:4]([H:10])[H:11])[H:12])[O:6][C:2]([O:7][H:9])=[O:8])([H:13])([H:14])[H:15]>>[C:1]([C:3]([C:5]([C:2]([O:7][H:9])=[O:8])([N:4]([H:10])[H:11])[H:12])=[O:6])([H:13])([H:14])[H:15],50.99378749998337
MR_17789_0,[C:1]([N:2]([H:6])[H:7])(=[C:4]([H:10])[H:11])[N:5]=[C:3]([H:8])[H:9]>>[C:1]1([N:2]([H:6])[H:7])=[N:5][C:3]([H:8])([H:9])[C:4]1([H:10])[H:11],33.249342499983214
MR_675497_1,[C:1]([C:3]([N:2]([O:6][H:8])[H:9])=[O:7])([N:4]([H:11])[H:13])([N:5]([H:12])[H:14])[H:10]>>[C:1]([C:3]([N:2]=[O:6])([O:7][H:8])[H:9])([N:4]([H:11])[H:13])([N:5]([H:12])[H:14])[H:10],61.021237499991656
MR_49269_0,[C:1]([C:4]([C:2]([H:10])([H:11])[H:12])=[O:7])([C:5]([C:3]([H:13])([H:14])[H:15])=[C:6]([H:16])[H:17])([H:8])[H:9]>>[C:1](=[C:5]([C:3]([H:13])([H:14])[H:15])[C:6]([C:4]([C:2]([H:10])([H:11])[H:12])=[O:7])([H:16])[H:17])([H:8])[H:9],63.68873999999835
MR_373314_2,[C:1](/[C:4]([C:2]([H:13])([H:14])[H:15])=[C:5](/[C:3]([H:16])([H:17])[H:18])[H:12])([O:6][H:9])([O:7][H:10])[O:8][H:11]>>[C:1]1([O:6][H:9])([O:7][H:10])[C:4]([C:2]([H:13])([H:14])[H:15])([O:8][H:11])[C:5]1([C:3]([H:16])([H:17])[H:18])[H:12],72.19199250000258
MR_309121_0,[C:1]([C:2]([C:3]([C:6]([C:5]([H:19])([H:20])[H:21])=[O:9])([H:14])[H:15])([H:12])[H:13])([C:4]([H:16])([H:17])[H:18])([O:7][H:11])[O:8][H:10]>>[C:1]([C:2]([C:3]([C:6]([C:4]([H:16])([H:17])[H:18])([C:5]([H:19])([H:20])[H:21])[O:9][H:10])([H:14])[H:15])([H:12])[H:13])([O:7][H:11])=[O:8],62.644579999995074
MR_116179_1,[C:1]([C:2]([C:3]([O:6][H:10])([O:7][H:9])[H:11])([H:12])[H:13])([O:4][H:8])=[O:5]>>[C:1]([C:2]([C:3]([O:6][H:10])=[O:7])([H:12])[H:13])([O:4][H:8])([O:5][H:9])[H:11],66.10336000000146
MR_382035_2,[C:1]([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])([C:5]([H:19])([H:20])[H:21])[C:6]([C:2]([O:7][H:11])([O:8][H:10])[H:12])=[O:9]>>[C:1]([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])([C:5]([H:19])([H:20])[H:21])[C:6]([C:2]([O:7][H:11])=[O:8])([O:9][H:10])[H:12],40.22965249998023
MR_561207_0,[C:1]([C:6](/[C:3](=[N:2]/[H:8])[N:4]([H:9])[H:10])(/[C:5](=[N:7]\[H:11])[H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1](/[C:6](=[C:3](/[N:2](/[C:5](=[N:7]\[H:11])[H:12])[H:8])[N:4]([H:9])[H:10])[H:13])([H:14])([H:15])[H:16],61.40024749999782
